Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Endometrial intraepithelial neoplasia
 
Major Surgical or Invasive Procedure:
Robotic assisted total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, cystoscopy 

 
History of Present Illness:
___ woman who presented for abnormal uterine bleeding.  
She underwent a pelvic ultrasound on ___ revealing a 
uterus measuring 11.5 x 5.6 x 7.5 cm with multiple masses 
consistent with fibroids.  She also had a heterogenous 
endometrium with increased vascularity, measuring 1.7 cm.  The 
ovaries were normal and there was no free fluid.

She underwent on ___, a diagnostic hysteroscopy and 
dilation and curettage which yielded endometrial intraepithelial 
neoplasia with a foci worrisome for evolution to endometrial 
adenocarcinoma, endometrioid type, FIGO grade 1.

The patient was in her usual state of health otherwise and on a 
14-point review of systems did report blood in her urine, 
abnormal vaginal bleeding, fatigue and spontaneous bleeding from 
the vagina that stopped ___. 
 
Past Medical History:
Past Medical History:  Denies

Health Maintenance:  Mammogram was done last month as was her
colonoscopy, both of which are reportedly normal.  She has never
had a bone density scan.

Past Surgical History:  She has had two D and Cs.  She had a 
C-section in ___.  She had breast reduction surgery in ___, 
which was complicated by an infection that required 
reconstruction in ___.

Past Obstetrics History:  She is gravida 5, para 3, with two 
vaginal deliveries, one C-section, one miscarriage and one 
ectopic pregnancy which she had a midline vertical incision for.

Past Gynecologic History:  She is unclear when her last 
menstrual period was.  She has been bleeding off and on for 
months.  Her last normal period she reports was ___.  She 
has never had an abnormal Pap smear and her last one was in 
___.  She has never taken oral contraceptive pills and 
denies ever any hormone replacement therapy.
 
Social History:
___
Family History:
Her mother may have had history of ovarian cancer; however, she 
is unclear regarding this diagnosis.  There is no family history 
of breast, uterine, cervical, vaginal or colon cancer.  Both her 
mother and father had lung cancer.  Her father also has high 
blood pressure.  Her grandfather had pancreatic cancer.
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, incision 
clean/dry/intact, no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 07:10AM BLOOD WBC-11.9*# RBC-4.22 Hgb-13.1 Hct-38.4 
MCV-91 MCH-31.0 MCHC-34.1 RDW-12.0 RDWSD-39.6 Plt ___
___ 07:10AM BLOOD Glucose-102* UreaN-8 Creat-0.8 Na-142 
K-3.9 Cl-106 HCO3-27 AnGap-13
___ 07:10AM BLOOD Calcium-8.7 Phos-2.9 Mg-2.0

 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoing robotic-assisted total laparoscopic hysterectomy and 
bilateral salpingo-oophorectomy with cystoscopy. Please see the 
operative report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with IV dilaudid, 
toradol and tylenol. Her diet was advanced without difficulty 
and she was transitioned to PO Tylenol, ibuprofen and oxycodone 
then to ibuprofen and Percocet for improved pain control. On 
post-operative day #1, her urine output was adequate so her 
Foley catheter was removed and she voided spontaneously. 

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H 
Do not take more than 4000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hours 
Disp #*50 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice per day 
Disp #*60 Tablet Refills:*1 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
___ cause sedation. Do not take with alcohol or while driving 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours Disp 
#*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Endometrial intraepithelial neoplasia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Laparoscopic instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 
___ weeks.
* No heavy lifting of objects >10 lbs for 4 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery. If you have steri-strips, leave them on. If they are 
still on after ___ days from surgery, you may remove them.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___